### PR TITLE
[Merged by Bors] - feat: port Data.Finset.Sym

### PR DESCRIPTION
**Pull request by xroblot**
Some instances that were not synthezised automatically are added to the files Data.Sym.Basic and Data.Sym.Sym2

See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Classical

 ---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Sym.lean [hunk 1]
```diff
@@ -90,6 +87,12 @@ alias sym2_nonempty ↔ _ nonempty.sym2
 -- Porting note: attribute does not exist
 -- attribute [protected] nonempty.sym2
 
+-- Porting note: add missing instances
+noncomputable instance : DecidableRel (fun x y : α × α ↦ x ≈ y) :=
+  Classical.decRel (fun x y : α × α ↦ x ≈ y)
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sym.lean:92]: This certainly shouldn't use `Classical`

File: Mathlib/Data/Finset/Sym.lean [hunk 2]
```diff
@@ -0,0 +1,267 @@
...
+  ext
+  simp only [mem_sym2_iff, mem_univ, implies_true]
+#align finset.sym2_univ Finset.sym2_univ
+
+@[simp]
+theorem sym2_singleton (a : α) : ({a} : Finset α).sym2 = {Sym2.diag a} := by
+  rw [Finset.sym2, singleton_product_singleton, image_singleton, Sym2.diag, Quotient.mk']
+#align finset.sym2_singleton Finset.sym2_singleton
+
+-- Porting note: remove the simp to satisfy simpNF lint
```
Comment (jcommelin) [inline Mathlib/Data/Finset/Sym.lean:102]: What was the complaint? Please record it in the porting note. Search for "simp can prove this" in https://github.com/leanprover-community/mathlib4/wiki/Porting-wiki for some templates.

Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean]: SimpNF was complaining that the LHS of the statement of the lemma could be simplified. According to the wiki, I added a new lemma that proves the version with the simplified LHS, marked it [simp] and use it to prove the original lemma (whose not a simp lemma anymore).

File: Mathlib/Data/Sym/Sym2.lean [hunk 3]
```diff
@@ -669,8 +669,12 @@ theorem relBool_spec [DecidableEq α] (x y : α × α) : ↥(relBool x y) ↔ Re
 
 /-- Given `[DecidableEq α]` and `[Fintype α]`, the following instance gives `Fintype (Sym2 α)`.
 -/
-instance (α : Type _) [DecidableEq α] : DecidableRel (Sym2.Rel α) := fun x y =>
+-- Porting note: Name the existing instance
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:672]: I don't think this note is needed

File: Mathlib/Data/Sym/Basic.lean [hunk 4]
```diff
@@ -54,6 +54,9 @@ instance Sym.hasCoe (α : Type _) (n : ℕ) : CoeOut (Sym α n) (Multiset α) :=
   ⟨toMultiset⟩
 #align sym.has_coe Sym.hasCoe
 
+-- Porting note: instance needed for Data.Finset.Sym
+instance [DecidableEq α]: DecidableEq (Sym α n) := Subtype.instDecidableEqSubtype
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Basic.lean:58]: This instance appears twice in this PR

File: Mathlib/Data/Finset/Sym.lean [hunk 5]
```diff
@@ -0,0 +1,269 @@
...
+@[simp]
+theorem sym2_nonempty : s.sym2.Nonempty ↔ s.Nonempty := by
+  rw [Finset.sym2, Nonempty.image_iff, nonempty_product, and_self_iff]
+#align finset.sym2_nonempty Finset.sym2_nonempty
+
+alias sym2_nonempty ↔ _ nonempty.sym2
+#align finset.nonempty.sym2 Finset.nonempty.sym2
+
+-- Porting note: attribute does not exist
+-- attribute [protected] nonempty.sym2
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sym.lean:89]: This is problematic; the intent is to create a protected alias. If we can't do it this way, perhaps there's other syntax?

File: Mathlib/Data/Finset/Sym.lean [hunk 6]
```diff
@@ -0,0 +1,269 @@
...
+#align finset.sym_eq_empty Finset.sym_eq_empty
+
+@[simp]
+theorem sym_nonempty : (s.sym n).Nonempty ↔ n = 0 ∨ s.Nonempty := by
+  simp_rw [nonempty_iff_ne_empty, Ne.def]
+-- Porting note: using simp_rw does not work here, it does nothing...
+  rwa [sym_eq_empty, not_and_or, not_ne_iff]
+#align finset.sym_nonempty Finset.sym_nonempty
+
+-- Porting note: this is defined twice in the mathlib3 file, maybe this one is supposed to be
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sym.lean:208]: Almost certainly; we should probably backport this

File: Mathlib/Data/Sym/Basic.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Data/Sym/Basic.lean:58]: I removed the extra one in Data.Sym.Sym2

File: Mathlib/Data/Finset/Sym.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean:89]: This is discussed here: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/alias.20.26.20protected but I don't think a solution has been found

File: Mathlib/Data/Finset/Sym.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean:208]: https://github.com/leanprover-community/mathlib/pull/18426

Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean:208]: The mathlib3 PR fixing this is ready for review.

Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean:208]: Well, that was not the right fix. The obvious change to 
`alias sym_nonempty ↔ _ nonempty.sym`
tries to overwrite a lemma that in fact already exists. In mathlib3 that fails silently, but in mathlib4, that gives a blocking error during the #align. 

Probably the best solution is to remove the alias in both mathlib3 and mathlib4 since it is obviously doing nothing...

Comment (xroblot) [reply Mathlib/Data/Finset/Sym.lean:208]: @YaelDillies if I understand `git blame` correctly, you are the one that added the alias in the mathport origin file, see : https://github.com/leanprover-community/mathlib/blob/6516bcc54f718ddebd84af1882107268d237797a/src/data/finset/sym.lean#L63

As noted above, I think this `alias` is incorrect since it tries to overwrite a lemma that already exists and indeed it fails silently with Lean 3 (there is a similar one also a few lines below), but it blocks the port of this file to Lean 4 since #align fails because of it. 

If you agree, I would like to just delete the two aliases. In fact, they are not used anywhere and mathlib compiles fine without them, see https://github.com/leanprover-community/mathlib/pull/18603

**Comment by ChrisHughes24** [comment]
bors merge
